* GF180MCU PMOS-input comparator static trip-point characterization
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.include work/common_mode.spice

.param VDD=3.3
VDD_SOURCE vdd 0 {VDD}
VBIAS bias 0 2.0
VCM cm 0 {VCM_LEVEL}
VDIFF diff 0 0
BSAMPLE sample 0 V='v(cm)+v(diff)/2'
BRAMP ramp 0 V='v(cm)-v(diff)/2'

XINP left sample tail vdd pfet_03v3 L=0.5u W=40u nf=10 m=1
XINN outa ramp tail vdd pfet_03v3 L=0.5u W=40u nf=10 m=1
XLOADD left left 0 0 nfet_03v3 L=0.5u W=20u nf=10 m=1
XLOADM outa left 0 0 nfet_03v3 L=0.5u W=20u nf=10 m=1
XTAIL tail bias vdd vdd pfet_03v3 L=1u W=20u nf=10 m=1
XBUF1 outb outa 0 0 nfet_03v3 L=0.28u W=4u nf=4 m=1
XBUF2 outb outa vdd vdd pfet_03v3 L=0.28u W=8u nf=4 m=1
XBUF3 dout outb 0 0 nfet_03v3 L=0.28u W=8u nf=4 m=1
XBUF4 dout outb vdd vdd pfet_03v3 L=0.28u W=16u nf=4 m=1

.dc VDIFF -0.1 0.1 0.1m
.measure dc trip_diff FIND v(diff) WHEN v(dout)=1.65 CROSS=1

.control
run
quit
.endc
.end
