* GF180MCU 3.3 V NMOS output-characteristic sweep
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

VGS g 0 0
VDS d 0 0
XMN d g 0 0 nfet_03v3 L=0.28u W=1u nf=1 m=1

.control
set wr_singlescale
set wr_vecnames
dc VDS 0 3.3 0.05 VGS 0 3.3 0.3
wrdata work/nmos_id_vds.csv -i(VDS)
quit
.endc

.end

